US04541959
To a solution of 2.98 g of methyl 3-(4-phenylthiobenzoyl)acrylate in 30 ml of diethyl ether was added 0.8 ml of thioacetic acid, and the resulting mixture was stirred at room temperature for 5 hours. The reaction solution was washed, in turn, with water, a saturated aqueous solution of sodium hydrogencarbonate and water, and dried over magnesium sulfate. The diethyl ether was removed from the solution by evaporation, and the residue was purified by silica gel column chromatography (eluent: hexane-diethyl ether) to give 3.73 g of methyl 2-acetylthio-3-(4-phenylthiobenzoyl)propionate as an oil.

reactant | methyl 3-(4-phenylthiobenzoyl)acrylate | 2.98 g | C1(=CC=CC=C1)C1=CC=C(C(=S)C=CC(=O)OC)C=C1 | C17H14O2S
reactant | thioacetic acid | 0.8 ml | C(C)(=S)O | C2H4OS
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | methyl 2-acetylthio-3-(4-phenylthiobenzoyl)propionate | 3.73 g | C(C)(=O)SC(C(=O)OC)CC(C1=CC=C(C=C1)C1=CC=CC=C1)=S | C19H18O3S2
